US08530468B2
5-(8-methoxyisoquinolin-3-ylamino)pyrazine-2-carbonitrile (AA-021)
Sodium methoxide (55 mg, 0.10 mmol) was added to a pre-stirred mixture of 5-(8-bromoisoquinolin-3-ylamino)pyrazine-2-carbonitrile (33 mg, 0.10 mmol) and copper iodide (19 mg, 0.10 mmol) in DMF in triplicate. The three reaction mixtures were heated at 140° C. for 30 minutes, 110° C. for 18 hours, and 120° C. for 10 minutes, respectively. The combined reaction mixtures were partitioned between ethyl acetate and water and the aqueous layer re-extracted with more ethyl acetate. The combined organic phases were washed with brine, dried (Na2SO4), and concentrated in vacuo. Purification by preparative HPLC gave the title compound (1.7 mg, 0.006 mmol, 2%). 1H NMR (DMSO, 400 MHz) δ 9.33 (s, 1H), 8.81 (d, 1H, J=1.3 Hz), 8.71 (d, 1H, J=1.3 Hz), 8.43 (s, 1H), 7.64 (t, 1H, J=8.1 Hz), 7.43 (d, 1H, J=8.3 Hz), 6.97 (d, 1H, J=7.6 Hz), 4.01 (s, 3H). LCMS (2) Rt=2.87 min, m/z (ESI+) 278 (MH+).

reactant | Sodium methoxide | 0.10 mmol, 55 mg | C[O-].[Na+]
reactant | 5-(8-bromoisoquinolin-3-ylamino)pyrazine-2-carbonitrile | 0.10 mmol, 33 mg | BrC=1C=CC=C2C=C(N=CC12)NC=1N=CC(=NC1)C#N | C14H8BrN5
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | copper iodide | 0.10 mmol, 19 mg | [Cu](I)I
product | 5-(8-methoxyisoquinolin-3-ylamino)pyrazine-2-carbonitrile | 0.006 mmol, 1.7 mg, 2% | COC=1C=CC=C2C=C(N=CC12)NC=1N=CC(=NC1)C#N | C15H11N5O
